US09227978B2
tert-Butyl 3-(4-(2-(4,5-dichloro-2-hydroxyphenylamino)acetyl)piperazin-1-yl)azetidine-1-carboxylate
A mixture of 2-(4,5-dichloro-2-hydroxyphenylamino)acetic acid (500 mg, 2.12 mmol), tert-butyl 3-(piperazin-1-yl)azetidine-1-carboxylate (565 mg, 2.34 mmol), EDCI.HCl (488 mg, 2.54 mmol), HOBt (343 mg, 2.54 mmol), Et3N (428 mg, 4.24 mmol) in DMF (20 mL) was stirred at room temperature for 15 h. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed withed saturated aqueous NaHCO3 solution and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (DCM/MeOH=30:1) to afford the desired product (300 mg, 31% yield). ESI-MS m/z: 457.4 [M−H]−.

reactant | 2-(4,5-dichloro-2-hydroxyphenylamino)acetic acid | 2.12 mmol, 500 mg | ClC1=CC(=C(C=C1Cl)NCC(=O)O)O | C8H7Cl2NO3
reactant | tert-butyl 3-(piperazin-1-yl)azetidine-1-carboxylate | 2.34 mmol, 565 mg | N1(CCNCC1)C1CN(C1)C(=O)OC(C)(C)C | C12H23N3O2
reactant | EDCI.HCl | 2.54 mmol, 488 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 2.54 mmol, 343 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 4.24 mmol, 428 mg | CCN(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-Butyl 3-(4-(2-(4,5-dichloro-2-hydroxyphenylamino)acetyl)piperazin-1-yl)azetidine-1-carboxylate | 300 mg, 31% yield | ClC1=CC(=C(C=C1Cl)NCC(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)O | C20H28Cl2N4O4
